US06872718B1
3,5,6,7-Tetrahydro-2,4,6,6,8-pentamethyl-2-[(4-phenylpiperidino)methyl]-2H-furo[2,3-f]indole
A suspension of 3,5,6,7-tetrahydro-2-(iodomethyl)-2,4,6,6,8-pentamethyl-2H-furo[2,3-f]indole (1.11 g, 2.99 mmol), 4-phenylpiperidine (723 mg, 4.48 mmol) and potassium carboante (826 mg, 5.98 mmol) in N,N-dimethylacetamide (6 ml) was stirred for 3 hours at 180° C. under nitrogen atmosphere. To the reaction mixture was added water, and extracted three times with ethyl acetate. The organic layers were combined, washed with water and saturated brine, dried over magnesium sulfate, treated with an active charcoal, filtered and then concentrated under reduced pressure. The residue was recrystallized from ethyl acetate-hexane to obtain 744 mg of the title compound.

reactant | 3,5,6,7-tetrahydro-2-(iodomethyl)-2,4,6,6,8-pentamethyl-2H-furo[2,3-f]indole | 2.99 mmol, 1.11 g | ICC1(CC=2C(=C(C=3CC(NC3C2C)(C)C)C)O1)C | C16H22INO
reactant | 4-phenylpiperidine | 4.48 mmol, 723 mg | C1(=CC=CC=C1)C1CCNCC1 | C11H15N
reactant | potassium | [K] | K
reactant | water | O | H2O
solvent | N,N-dimethylacetamide | 6 ml | CN(C(C)=O)C | C4H9NO
product | 3,5,6,7-Tetrahydro-2,4,6,6,8-pentamethyl-2-[(4-phenylpiperidino)methyl]-2H-furo[2,3-f]indole | 744 mg, Yield: 62% | CC1(CC=2C(=C(C=3CC(NC3C2C)(C)C)C)O1)CN1CCC(CC1)C1=CC=CC=C1 | C27H36N2O
